US06156893
Preparation of (±)-1-BOC-amino-2-cyclopentene-4-carboxylic Acid
16.4 g of crude (±)-1-amino-2-cyclopentene-4-carboxylic acid hydrochloride (prepared as in J. Org. Chem. 1981, 46, 3268) were dissolved in a mixture of 80 ml of water and 80 ml of dioxane at room temperature under nitrogen. The mixture was then adjusted to pH 14 with 1N NaOH, and a diethyl ether solution of tert-butyloxycarbonyl fluoride (BOC-F, 20% excess) was added (BOC-F prepared as in Synthesis 1975, 599). The mixture was stirred for a further 5 h at room temperature. The pH was adjusted to 2 with conc. HCl. After distillation of the organic solvents, 50 ml of water were added to the residue, and the mixture was extracted 3 times with 100 ml of ethyl acetate. The organic phase was evaporated to 50 ml and diluted with 25 ml of toluene. After cooling (0-10° C.), the title compound was filtered and dried. 14.3 g of product were obtained. The yield was 63%.

reactant | (±)-1-amino-2-cyclopentene-4-carboxylic acid hydrochloride | 16.4 g | Cl.NC1C=CC(C1)C(=O)O
reactant | NaOH | 1N | [OH-].[Na+]
reactant | tert-butyloxycarbonyl fluoride | C(C)(C)(C)OC(=O)F | C5H9FO2
reactant | HCl | Cl | ClH
solvent | water | 80 ml | O | H2O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (±)-1-BOC-amino-2-cyclopentene-4-carboxylic Acid | 14.3 g, yield was 63% | C(=O)(OC(C)(C)C)C1(C=CC(C1)C(=O)O)N | C11H17NO4
